US09108921B2
Step A: 2-fluoroquinoline (20B)
To a solution of 2-chloroquinoline (4.9 g, 30 mmol) in 200 mL of anhydrous DMSO was added cesium fluoride (9.13 g, 60 mmol), and the resulting mixture was stirred at 130° C. overnight, when LC-MS showed completion of the reaction. After cooling, the reaction mixture was diluted with water, and then extracted with ethyl acetate. The organic layer was then washed with brine, dried over anhy. Na2SO4, and concentrated in vacuo. Column chromatography (6% EtOAc/PE) afforded 3.34 g of title compound. 1H NMR (CHLOROFORM-d) δ: 8.23 (d, J=8.6 Hz, 1H), 7.89 (d, J=8.6 Hz, 1H), 7.82-7.86 (m, 1H), 7.67 (d, J=8.5, 7.0, 1.5 Hz, 1H), 7.47-7.53 (m, 1H), 7.35 (d, J=8.6 Hz, 1H). LC-MS: m/z 148.2 (M+H)+

reactant | 2-chloroquinoline | 30 mmol, 4.9 g | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | cesium fluoride | 60 mmol, 9.13 g | [F-].[Cs+]
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-fluoroquinoline | 3.34 g | FC1=NC2=CC=CC=C2C=C1 | C9H6FN
